US07105671B2
A solution of 2-(3-chloro-4-methanesulfonyl-phenyl)-3-(2-oxo-cyclopentyl)-N-pyrazin-2-yl-propionamide (99.3 mg, 0.23 mmol) in pyridine (0.69 mL) and methanol (0.69 mL) at 25° C. was treated with hydroxylamine hydrochloride (24.5 mg, 0.35 mmol). The reaction mixture was heated under reflux for 12 h. At this time, the reaction was cooled to 25° C. and was concentrated in vacuo. The resulting residue was dissolved in ethyl acetate (75 mL) and was washed with a 1N aqueous sodium hydroxide solution (1×50 mL) and a saturated aqueous sodium chloride solution (1×50 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 75/25 ethyl acetate/hexanes) afforded 2-(3-chloro-4-methanesulfonyl-phenyl)-3-(2-hydroxyimino-cyclopentyl)-N-pyrazin-2-yl-propionamide (5.6 mg, 5.4%) as a white wax: (ES)−-HRMS m/e calcd for C19H21ClN4O4S (M−H)− 435.0899, found 435.0902.

reactant | 2-(3-chloro-4-methanesulfonyl-phenyl)-3-(2-oxo-cyclopentyl)-N-pyrazin-2-yl-propionamide | 0.23 mmol, 99.3 mg | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)NC1=NC=CN=C1)CC1C(CCC1)=O | C19H20ClN3O4S
reactant | hydroxylamine hydrochloride | 0.35 mmol, 24.5 mg | Cl.NO
solvent | pyridine | 0.69 mL | N1=CC=CC=C1 | C5H5N
solvent | methanol | 0.69 mL | CO | CH4O
product | 2-(3-chloro-4-methanesulfonyl-phenyl)-3-(2-hydroxyimino-cyclopentyl)-N-pyrazin-2-yl-propionamide | 5.6 mg, 5.4% | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)NC1=NC=CN=C1)CC1C(CCC1)=NO | C19H21ClN4O4S
